US04352752
1-(1(S)-Benzyloxycarbonyl-3-methylbutyl)-3-azido-4-phenylazetidin-2-one (200 mg., 0.51 mmol) was hydrogenated in 10 ml. of ethanol at 50° C. for 19 hours under ambient pressure using a 10% Pd-C (270 mg.) as a catalyst to give D/L-phenylalanyl-L-leucine quantitatively.

reactant | 1-(1(S)-Benzyloxycarbonyl-3-methylbutyl)-3-azido-4-phenylazetidin-2-one | 0.51 mmol, 200 mg | C(C1=CC=CC=C1)OC(=O)[C@H](CC(C)C)N1C(C(C1C1=CC=CC=C1)N=[N+]=[N-])=O | C22H24N4O3
catalyst | Pd-C | 270 mg | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | L-phenylalanyl-L-leucine | N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)O | C15H22N2O3
